US04791929
Synthesis of ε-Caprolactone-Trimethylene Carbonate Copolymer
ε-Caprolactone (8.0 g, 0.070 mole), trimethylene carbonate (2.0 g, 0.020 mole), lauryl alcohol (0.283 g, 1.52×10-3 mole) and stannous chloride dihydrate (2.02 mg, 8.91×10-6 mole) were combined in a flask. The flask was flushed with nitrogen, evacuated and sealed. The flask was heated at 135° C. for 24 hours. The resulting polymer had a composition, as measured by 1H NMR, of 86 wt. % ε-caprolactone and 14 wt. % trimethylene carbonate. The ηinh of the copolymer was 0.26 dl/g (0.5 g/dl in HFAS).

reactant | ε-Caprolactone | 0.070 mole, 8.0 g | C1(CCCCCO1)=O | C6H10O2
reactant | trimethylene carbonate | 0.020 mole, 2.0 g | C1(OCCCO1)=O | C4H6O3
reactant | lauryl alcohol | 1.52×10-3 mole, 0.283 g | C(CCCCCCCCCCC)O | C12H26O
product | ε-Caprolactone Trimethylene Carbonate | C1(CCCCCO1)=O.C1(OCCCO1)=O | InChI=1S/C6H10O2.C4H6O3/c7-6-4-2-1-3-5-8-6;5-4-6-2-1-3-7-4/h1-5H2;1-3H2
